US04010178
A solution of diethyl 2-tert-butoxycarbonyloxyiminomalonate (1.9 g.) in tert-butyl alcohol (5 ml.) was added to a solution of L-isoleucine (656 mg.) in a 1N sodium hydroxide aqueous solution (5.0 ml.), and the mixture was stirred for 3 hours at room temperature. tert-Butyl alcohol was removed from the reaction mixture under reduced pressure and water was added to the residue. The mixture was washed with ether, adjusted to pH 3 with a 5% citric acid aqueous solution and extracted with ethyl acetate. The extract was washed with water, dried and concentrated to give N-tert-butoxycarbonyl-L-isoleucine (1.2 g.), oil.

reactant | diethyl 2-tert-butoxycarbonyloxyiminomalonate | 1.9 g | C(C)(C)(C)OC(=O)ON=C(C(=O)OCC)C(=O)OCC | C12H19NO7
reactant | L-isoleucine | 656 mg | N[C@@H]([C@@H](C)CC)C(=O)O | C6H13NO2
reactant | sodium hydroxide | 1N, 5.0 ml | [OH-].[Na+]
solvent | tert-butyl alcohol | 5 ml | C(C)(C)(C)O | C4H10O
product | N-tert-butoxycarbonyl-L-isoleucine | 1.2 g | C(C)(C)(C)OC(=O)N[C@@H]([C@@H](C)CC)C(=O)O | C11H21NO4
